US09102685B2
Added a solution of 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((R)-2-((4-chlorobenzyl)amino)-1-hydroxyethyl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (55 g, 69.3 mmol) dissolved in methanol (825 mL), dimethyl amino acetaldehyde hydrogen sulfite sodium salt (66.8 g, 0.35 mol) and Et3N (38.7 g, 0.38 mol) into a reactor. The reaction was stirred for 2-3 hrs at 30-40° C. under nitrogen protection. NaBH3CN (8.8 g, 0.14 mol) was added and stirred at 30-40° C. under nitrogen protection for 13-15 hrs. Next, the reaction temperature was adjusted to 50-60° C. and stirred for 3-5 hrs. The reaction mixture was then concentrated to 275 mL and then DCM (550 mL) was added, followed by water (440 mL). The two phases were separated and the water phase was extracted with DCM (twice with 385 mLs each time). The organic phase was washed with water (twice with 358 mLs each time). Next, the organic phase was concentrated to give 1-tert-butyl 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((R)-2-((4-chlorobenzyl)(2-(dimethylamino)ethyl)amino)-1-hydroxyethyl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate 43 g oil. Yield is 71%. 1HNMR (400 MHz, CDCl3) δ=7.27-7.29 (m, 4H), 4.46-4.50 (m, 1H), 4.08-4.13 (m, 2H), 4.00-4.02 (m, 1H), 3.59-3.60 (m, 1H), 3.09 (m, 1H), 2.03-2.67 (m, 14H), 0.62-1.42 (m, 57H);

reactant | 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((R)-2-((4-chlorobenzyl)amino)-1-hydroxyethyl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 69.3 mmol, 55 g | CC(C(=O)[O-])(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)[C@H](CNCC5=CC=C(C=C5)Cl)O)C)C)(C)C)C
reactant | dimethyl amino acetaldehyde hydrogen sulfite sodium salt | 0.35 mol, 66.8 g | [Na+].S(=O)(O)[O-].CC(C=O)(N)C
reactant | Et3N | 0.38 mol, 38.7 g | CCN(CC)CC | C6H15N
reactant | NaBH3CN | 0.14 mol, 8.8 g | [BH3-]C#N.[Na+]
solvent | methanol | 825 mL | CO | CH4O
product | 1-tert-butyl 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((R)-2-((4-chlorobenzyl)(2-(dimethylamino)ethyl)amino)-1-hydroxyethyl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 43 g, Yield is 71% | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)[C@H](CN(CCN(C)C)CC5=CC=C(C=C5)Cl)O)C)C)(C)C)C | C52H81ClN2O6
